Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Aspirin / Vancomycin
 
Attending: ___
 
Chief Complaint:
CHIEF COMPLAINT: Increasing SOB + night sweats, admitted for 
endocarditis
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
OUTPATIENT CARDIOLOGIST: Dr. ___  
 
___: Dr. ___  

HISTORY OF PRESENTING ILLNESS:  
Mrs. ___ is a pleasant ___ year old female with a history of 
bicuspid aortic valve s/p AVR ___.  

Since ___, she has been c/o of increasing fatigue and 
DOE, especially when going up the stairs. She was previous a 
very active lady, walking up to 1 hr a day. She mentions she 
also had occasional episodes of chest "pressure" lasting ~1min. 
No radiation. No associated presyncope or syncope. No 
palpitations or diaphoresis. She also mentions she has had 
chills and night sweats (2x/week) since ___, which have 
increased in intensity over the last few weeks. She did not have 
fever.  

She was followed and investigated at ___. Per recent 
PA note ___: Recent evaluation in ___ has revealed EF 
60-65% no paravalvular leak but moderate AI. She has normal 
coronary arteries on cardiac catheterization ___. Per 
patient, she was initially scheduled for a surgery around ___, but wanted a second opinion.  

On ___, she underwent TTE at the ___ and was noted to have 
developed perivalvular leak with an aortic root abscess and 
increased aortic regurgitation. Her blood cx grew coag. neg 
staph and the patient was advised to return to the ER. Most 
recent dentist apptmt 9 mo ago, took Abx. No recent urogenital 
procedures.  

In the ED, initial vitals were 98.6 119/66 90 18 98%RA  
She had blood cultures drawn x 2 and received 1g Vancomycin and 
80mg gentamicin. She developped redness and itchy on Vanco and 
received Benadryl.  

On review of systems, she denies any prior history of stroke, 
TIA. She has been complaining of occasional headaches, 
dizziness, and visual flashes. She also complains of 
intermittent diarrhea/constipation, but had a normal ___. Also c/o of occasional cough with white mucus, no 
hemoptysis.  
 
Cardiac review of systems is notable for absence paroxysmal 
nocturnal dyspnea, orthopnea, ankle edema.
 
Past Medical History:
s/p AVR for bicuspid aortic valve ___  
Hypertension.  
Hypercholesterolemia.  
s/p partial hysterectomy  
Anxiety/Depression  
Arthritis spine/hip  
Osteoporosis  
Hx of GI bleed  

ALLERGIES:  
Codeine->hives  
"ASA"->upset stomach  
Penicillin causes itch.  

 
Social History:
___
Family History:
Family history non-contributory.  
 
Physical Exam:
VS: 98.5 113/73 73 16 97%RA  
GENERAL: Not in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma. 
Normal CNII-XII  
NECK: Supple with normal JVP.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. III/VI systolic and III/VI diastolic 
murmur best heard over RUSB radiating to carotid. No thrills, 
lifts. No S3 or S4. Exquisite pain on palpation ___ on Aortic 
and LLSB areas.  
LUNGS: No chest wall deformities. Resp were unlabored, no 
accessory muscle use. CTAB, no crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. No 
___ nodes, ___ lesions, or splinter hemorrages  
PULSES:  
Right: Carotid 2+ Femoral 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ DP 2+ ___ 2+  

 
Pertinent Results:
LABS:
___ 04:11PM BLOOD WBC-10.4 RBC-3.79* Hgb-11.8* Hct-35.4* 
MCV-93 MCH-31.1 MCHC-33.3 RDW-12.8 Plt ___
___ 04:11PM BLOOD Glucose-107* UreaN-33* Creat-1.2* Na-139 
K-3.7 Cl-103 HCO3-25 AnGap-15
___ 04:11PM BLOOD CK-MB-7 cTropnT-<0.01
___ 06:53AM BLOOD ALT-9 AST-20 CK(CPK)-106 AlkPhos-49 
TotBili-0.3
___ 06:53AM BLOOD CK-MB-5 cTropnT-<0.01
___ 05:50AM BLOOD Albumin-4.6 Calcium-9.2 Phos-3.0 Mg-2.1
___ 06:25AM BLOOD WBC-9.1 RBC-3.66* Hgb-12.0 Hct-33.4* 
MCV-91 MCH-32.8* MCHC-36.0* RDW-12.8 Plt ___
___ 06:25AM BLOOD Glucose-84 UreaN-20 Creat-1.1 Na-140 
K-4.2 Cl-104 HCO3-25 AnGap-15

EKG:  
___: Rate ___. Normal sinus rhythm. Normal Axis. Normal PR 
and QRS interval. Slight T wave inversion on V2 and AVL 
previously seen 4 month ago. No other signs of ischemia.  
  
ECHOCARDIOGRAM:  
TEE ___  
No mass/thrombus is seen in the left atrium or left atrial 
appendage. Overall left ventricular systolic function is normal 
(LVEF>55%). Right ventricular chamber size and free wall motion 
are normal. A paravalvular bioprosthetic aortic valve leak is 
probably present. No definite masses or vegetations are seen on 
the aortic valve. An aortic annular abscess is seen. Moderate to 
severe (3+) aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Mild (1+) mitral regurgitation is 
seen. There is a small pericardial effusion. 
IMPRESSION: Intact bioprosthetic aortic valve with large 
circumferential aortic root clear space that could be remnants 
of prior aortic sinus dilatation, although ruptured abscess 
cannot be excluded ___ certainty. There is a mild paravalvular 
leak. There is moderate to severe aortic regurgitation.  
  
IMAGING  
___ CT neck
No evidence of abscess in the neck. 

___ CTA head
Per note left by ___ NP for Dr. ___
"CTA reveals a 3 mm left MCA aneurysm consistent with a saccular 
aneurysm. It is not a mycotic aneurysm. We would recommend a 
follow up MRA after completion of antibiotic therapy prior to 
any surgery. The 3 mm aneurysm has a less than 2 % risk of 
rupture."

___ CT ___
1. Mild dilatation of the ascending aorta. 
2. Prominent lymph nodes in the mediastinum and hila, with 
nodular pattern in the right upper lung field, may be consistent 
with sarcoidosis and has similar appearance compared to prior 
study.  
3. No evidence of septic emboli phenomena on CT.

___ MRI/MRA head
1. Aproximately 3mm aneurysm at the left MCA trifurcation.
2. Microangiopathic ischemic white matter disease. No acute 
intracranial 
process identified.
 
Brief Hospital Course:
Mrs. ___ is a ___ year old female s/p bioprosthetic AVR ___ 
admitted for endocarditis.

# Endocarditis with severe aortic regurgitation
The patient was seen in outpatient echo clinic for a TTE, and 
noticed to have possible aortic root abscess. She had a blood 
culture which initially grew coag. neg staph and strep viridans 
___. She was sent to the emergency room. 
The patient was started on vancomycin/gentamicin. She initially 
developped a minor arm rash and itch to Vancomycin, but did not 
show reaction on subsequent administration. Repeat TEE revealed 
a large circumferential aortic root clear space. When compared 
to the previous TEE obtained from ___ (___), it was 
felt that this could represent remnants of prior aortic sinus 
dilatation, although an annular abscess could not be excluded. 
Over the course of the hospitalisation, the patient remained 
afebrile and showed no signs of sepsis. There were no signs of 
embolic phenomena on physical examination or on CT imaging of 
the chest/abdomen/pelvis and MRI/MRA of the brain. Her 
neurological examination remained stable. Her EKG remained at 
baseline. On ___, the patient suddenly developed 
hypotension and altered mental status. Repeat echo did not 
reveal any changes. Her condition rapidly improved post 
hydration. She remained asymptomatic after that.
She was seen by both cardiac surgery and infectious disease. 
Because the echo changes were felt to be chronic, emergent 
surgery was not deemed necessary. She had full pre-surgery 
work-up and will be discharged home with a ___ access for 
long-term antiobics. Follow-up appointments will be arranged 
with CT surgery and ID.

# Neurological symptoms  
During the admission, the patient was noted to have ataxia on 
the left upper extremities, indicating possible cerebellar 
involvement. In the context of a suspected emboli, a MRI/MRA of 
the head was ordered to rule out emboli. A 3 mm aneurysm on the 
trifurcation of the MCA was found. Neurosurgery was consulted 
and a CTA was ordered to better assess the morphology of the 
aneurysm. The conclusion from the neurosurgical team was that 
this was an incidental berry aneurysm. Follow-up imaging and 
neurosurgical appointments have been arranged.
  
# Kidney disease  
Patient's creatinine ranged around 1.2 vs baseline of 0.8 ___ 
years ago. She will need follow-up from her primary care 
physician.
.  
# Hilar adenopathy
Mention of hilar adenopathy on CT scan which raises concern for 
sarcoidosis. She will need outpatient workup and follow-up from 
her primary care physician.
.  
# Hypertension: Continue home hctz and Benicar.  Blood pressure 
has been well controlled.  
.  
# Hypercholesterolemia: Continued crestor   
.  
# Depression/anxiety: Continued sertralie 150mg daily 
.  
# PROPHYLAXIS: heparin s/c for DVT.  
.  
# CODE: full  
.  

 
Medications on Admission:
Trazodone 150 mg QHS/PRN  
Sertraline 150 mg QAM  
Benicar 20 mg daily  
Chlorzoxazone 500 mg TID  
Chantix 1 mg daily  
Lamotrigine 50 mg qAM  
Tramadol 50 mg ___  
Evista 60 mg daily  
Crestor 10 mg daily  
Hctz 25 mg daily

 
Discharge Medications:
1. Sertraline 50 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
2. Benicar 20 mg Tablet Sig: One (1) Tablet PO daily ().  
3. Chlorzoxazone 500 mg Tablet Sig: One (1) Tablet PO TID/PRN () 
as needed for for muscle pain.  
4. Evista 60 mg Tablet Sig: One (1) Tablet PO daily ().  
5. Chantix  Oral
6. Rosuvastatin 10 mg Tablet Sig: One (1) Tablet PO once a day.  

7. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
8. Tramadol 50 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for for pain.  
9. Lamotrigine 25 mg Tablet Sig: Two (2) Tablet PO once a day.  
10. Lorazepam 0.5 mg Tablet Sig: ___ Tablets PO HS (at bedtime) 
as needed for for insomnia.
Disp:*20 Tablet(s)* Refills:*1*
11. Penicillin G Potassium 5,000,000 unit Recon Soln Sig: Four 
(4) million units Injection every four (4) hours for at least 4 
weeks: Do not stop this medication without discussing it with 
your infectious disease doctor.  Do not miss any doses.
Disp:*qs liters* Refills:*3*
12. Gentamicin Sulfate (PF) 60 mg/6 mL Solution Sig: One (1) 60 
mg Intravenous every eight (8) hours for 4 weeks: Do not stop 
this medication without discussing it with your infectious 
disease doctor. Do not miss any doses.
Disp:*qs * Refills:*3*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Endocarditis

Secondary diagnosis:
Aortic regurgitation
s/p AVR for bicuspid aortic valve ___
Hypertension
Hypercholesterolemia

 
Discharge Condition:
In good condition. Pain free. No shortness of breath. Able to 
ambulate with ___

 
Discharge Instructions:
You were admitted to the hospital because there is a bacterial 
infection in your replaced valve. You received antibiotics 
during your hospital stay and will keep receiving antibiotics at 
home.

Please attend all follow up appointments listed below.

We made the following changes to your medication list
1. We changed the trazodone to Lorazepam 0.5 mg, 1 to 2 tablets 
to be taken if you have trouble sleeping. We made the change 
because there is a rare, but severe interaction between 
trazodone and one of your other medication, sertraline.
2. Pencillin G 4 million units IV every 4 hours.  **It is very 
important that you do not stop taking this medication or miss 
any doses unless instructed to do so by your doctor.**
3. Gentamicin 60mg IV every 8 hours.  **It is very important 
that you do not stop taking this medication or miss any doses 
unless instructed to do so by your doctor.**

You will need a blood test to be drawn at the rehab facility, 
before your third dose of Gentamicin. To the nursing staff: Mrs. 
___ needs ___ trough and peak level drawn 30 mins before 
and after her 16h00 dose on ___. Please fax results to Dr. 
___

Please return to the hospital if you experience fevers, chest 
pain, increased shortness of breath, diaphoresis, severe nausea 
or vomiting, or any other concerning symptoms.
 
Followup Instructions:
___